### PR TITLE
feat: iinv

### LINKED ISSUE #363: Port iInv
See Iris Rocq documentation at https://gitlab.mpi-sws.org/iris/iris/-/blob/master/docs/proof_mode.md

### PR DESCRIPTION
**Pull request by alvinylt**
## Description

Implements the `iinv` tactic.

Addresses #317 and #363.

This includes porting the following type classes instances of `IntoAcc`, `ElimAcc`, `IntoInv` and `ElimInv`.

| Type class instance          | Located in ... (Rocq)                                                                                                       | Located in ... (Lean)                                                                                                | Definition ported? | Proof ported? |
|------------------------------|-----------------------------------------------------------------------------------------------------------------------------|----------------------------------------------------------------------------------------------------------------------|--------------------|---------------|
| `elim_inv_acc_without_close` | [`class_instances.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/class_instances.v)                  | [`InstancesIris.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/ProofMode/InstancesIris.lean)       | ✓                  | ✓             |
| `elim_inv_acc_with_close`    | [`class_instances.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/class_instances.v)                  | [`InstancesIris.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/ProofMode/InstancesIris.lean)       | ✓                  | ✓             |
| `elim_acc_bupd`              | [`class_instances_updates.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/class_instances_updates.v)  | [`InstancesUpdates.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/ProofMode/InstancesUpdates.lean) | ✓                  | ✓             |
| `elim_acc_fupd`              | [`class_instances_updates.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/class_instances_updates.v)  | [`InstancesUpdates.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/ProofMode/InstancesUpdates.lean) | ✓                  | ✓             |
| `into_inv_inv`               | [`invariants.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/base_logic/lib/invariants.v)                       | [`Invariants.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/Instances/Lib/Invariants.lean)         | ✓                  | ✓             |
| `into_acc_inv`               | [`invariants.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/base_logic/lib/invariants.v)                       | [`Invariants.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/Instances/Lib/Invariants.lean)         | ✓                  | ✓             |
| `into_inv_cinv`              | [`cancelable_invariants.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/base_logic/lib/cancelable_invariants.v) | [`CInvariants.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/Instances/Lib/CInvariants.lean)       | ✓                  | ✓             |
| `into_acc_cinv`              | [`cancelable_invariants.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/base_logic/lib/cancelable_invariants.v) | [`CInvariants.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/Instances/Lib/CInvariants.lean)       | ✓                  | ✓             |
| `into_inv_na`                | [`na_invariants.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/base_logic/lib/na_invariants.v)                 | [`NaInvariants.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/Instances/Lib/Invariants.lean)       | ✓                  | ✓             |
| `into_acc_na`                | [`na_invariants.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/base_logic/lib/na_invariants.v)                 | [`NaInvariants.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/Instances/Lib/Invariants.lean)       | ✓                  | ✓             |
| `elim_acc_wp_atomic`         | [`weakestpre.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/program_logic/weakestpre.v)                        | [`WeakestPre.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/ProgramLogic/WeakestPre.lean)          | ✓                  | ✓             |
| `elim_acc_wp_nonatomic`      | [`weakestpre.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/program_logic/weakestpre.v)                        | [`WeakestPre.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/ProgramLogic/WeakestPre.lean)          | ✓                  | ✓             |

The following code is yet to be ported but also includes relevant type class instances.

- [`proofmode/monpred.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/monpred.v): `elim_inv_embed_with_close`, `elim_inv_embed_without_close`, `elim_acc_at_None`, `elim_acc_at_Some`
- [`program_logic/total_weakestpre.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/program_logic/weakestpre.v): `elim_acc_wp_atomic`, `elim_acc_wp_nonatomic`
- [`bi/lib/atomic.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/bi/lib/atomic.v): `elim_acc_aacc`
- [`proofmode/class_instances_embedding.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/class_instances_embedding.v): `into_inv_embed`

### Other Changes

- Implement `wandM` (`-∗?`) in [`BIBase.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/BI/BIBase.lean), the theorem `wandM_sound` in [`DerivedLaws.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/BI/DerivedLaws.lean). The related type class instances are also ported in [`Instances.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/ProofMode/Instances.lean), which allows us to, for example, apply `iintro H` given `H : P -∗? Q`. The `outParam` values obtained from type class synthesis with `ElimInv` may contain occurrences of `wandM`. The function `pmReduce` (similar to `pm_reduce` in the Rocq version) simplifies them and occurrences of `Option.getD` in specific propositions before using them in the new proof goals.
- Slight modifications to `iSolveSidecondition` in [`Basic.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/ProofMode/Tactics/Basic.lean) so that it does not fail when `failOnUnsolved` is set as `false`. Furthermore, instead of using only `trivial`, it now uses `and_intros <;> first | trivial | simp_all` so that a conjunction is broken down into smaller subgoals before trying various tactics to solve them.
- `FrameResult.finishClose` is made less restrictive to be consistent with the Rocq version: remove `emp`/`True` even when no progress is made with framing.
- Theorems in [`Pure.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/ProofMode/Tactics/Pure.lean) (`pure_elim_spatial` and `pure_elim_intuitionistic`) and [`Cases.lean`](https://github.com/ISTA-PLV/iris-lean/blob/iInv/Iris/Iris/ProofMode/Tactics/Cases.lean) (`intuitionistic_elim_spatial` and `intuitionistic_elim_intuitionistic`) are slightly modified to avoid dependency of `ProofMode.Tactics` on `ProofMode.Instances`. This enables us to use IPM tactics to complete proofs for type class instances in `ProofMode.Instances` without causing circular dependencies. 
  - See the commit [here](https://github.com/ISTA-PLV/iris-lean/commit/96529a31fcd983dd87eb97bce932fee530215dea) for the relevant changes.
  - This is similar to the Rocq version where `ltac_tactics.v` depends on `classes.v` but not `class_instances.v`, while `class_instances.v` imports `ltac_tactics.v`.

## Checklist
* [x] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [x] I have added my name to the `authors` section of any appropriate files

### CODE REVIEW

File: Iris/Iris/ProofMode/Tactics/Inv.lean [hunk 1]
```diff
@@ -0,0 +1,170 @@
...
+open Lean Elab Tactic Meta Qq BI Std
+
+/--
+  An annotation of `wandM` with `@[reducible]` is useful when `whnf` is called,
+  but `whnf` is not strong enough to simplify occurrences of `wandM` in the
+  proof goal. This funnction is similar to `pm_reduce` in the Rocq version,
+  which forces the reduction of `wandM` (`-∗?`), occurrences of `Option.getD`
+  and pattern matching (`match … with …`).
+-/
+def pmReduce (e : Expr) : ProofModeM Expr := do
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Inv.lean]: Maybe call this `reduceWandM`  and make this private to make clear that this is an internal function?

File: Iris/Iris/ProofMode/Tactics/Basic.lean [hunk 2]
```diff
@@ -29,10 +29,12 @@ def iSolveSidecondition (target : Q(Prop)) (failOnUnsolved := true) : ProofModeM
   | .app (.const ``PMError _) (.lit (.strVal msg)) =>
       throwError "{msg}"
   | _ =>
-      let gs ← evalTacticAt (← `(tactic | trivial)) mvar.mvarId!
+      let gs ← (observing? <|
+        evalTacticAt (← `(tactic | and_intros <;> first | trivial | simp_all)) mvar.mvarId!) <&>
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Basic.lean]: Why is the change to `and_intros <;> first | trivial | simp_all` necessary?

File: Iris/Iris/ProofMode/Tactics/Inv.lean [hunk 3]
```diff
@@ -0,0 +1,170 @@
...
+    return q(tac_inv_elim $inst $hϕ $pf $pfEq $pfPin)
+  | ~q(none) =>
+    let pf : Q(∀ x, $e'' ∗ $Pout x ⊢ $Q' x) ←
+      withLocalDeclDQ (← mkFreshUserName .anonymous) X fun x => do
+        iCasesCore _ hyps'' q($Q'' $x) casesPat q(false) q($Pout' $x) >>=
+        (mkLambdaFVars #[x] ·)
+    return q(tac_inv_elim $inst $hϕ $pf $pfEq $pfPin)
+
+/-- Given a `Namespace` value, find a corresponding invariant hypothesis. -/
+private def findInvariantWithNamespace {u} {prop : Q(Type u)} {bi : Q(BI $prop)} {e}
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Inv.lean]: Instead of destructing Hyps yourself here, it might be better to implement a `findM?` function for Hyps, see e.g. https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/Control.html#List.findM%3F

File: Iris/Iris/ProofMode/Tactics/Inv.lean [hunk 4]
```diff
@@ -0,0 +1,170 @@
...
+    return (← findInvariantWithNamespace N rhs) <|> (← findInvariantWithNamespace N lhs)
+
+syntax (name := iinv) "iinv " colGt term (" $$ " colGt ppSpace specPat)?
+    " with " colGt icasesPat (colGt icasesPat)? : tactic
+
+/--
+  `iinv H with casesPat` opens an invariant hypothesis `H` and uses the
+  cases pattern `casesPat` to destruct the result without any additional
+  hypothesis for closing the invariant. The type class
+  `elimInv_acc_without_close` is used with this tactic.
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Inv.lean]: This is confusing since `elimInv_acc_without_close` is not a typeclass. I would remove the last sentence here and in the next paragraph.

File: Iris/Iris/ProofMode/Tactics/Inv.lean (hunk 1 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Inv.lean]: Resolved in commit [e73137b](https://github.com/leanprover-community/iris-lean/pull/470/commits/e73137b8d199f3b9d6e932168d05d6a9dccfabf8).

File: Iris/Iris/ProofMode/Tactics/Basic.lean (hunk 2 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Basic.lean]: Using `simp [*]` instead.

Commit: [caacc54](https://github.com/leanprover-community/iris-lean/pull/470/commits/caacc5408446ea8425cfd060d85b0f9879edb90f)

File: Iris/Iris/ProofMode/Tactics/Inv.lean (hunk 4 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Inv.lean]: Resolved in commit [4fc2ef8](https://github.com/leanprover-community/iris-lean/pull/470/commits/4fc2ef853e304e74d3ae84b68d24e2fe75f80700).

File: Iris/Iris/ProofMode/Tactics/Inv.lean (hunk 3 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Inv.lean]: `Hyps.findM?` implemented and used for replacing `findInvariantWithNamespace`.

Commit: [b90c8b6](https://github.com/leanprover-community/iris-lean/pull/470/commits/b90c8b6de0207e0046e94e5953068e39b05aa5df)

File: Iris/Iris/ProofMode/Tactics/Basic.lean (hunk 2 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Basic.lean]: Looks like the HeapLang tactics are broken by the removal of `trivial`.

Meanwhile, `first | trivial | simp [*]` without `and_intros` works well with both `iinv` and HeapLang tactics.

Commit: [88e3436](https://github.com/leanprover-community/iris-lean/pull/470/commits/88e343685a1f2765071c0df0ca04d351ccaccf92)

File: Iris/Iris/ProofMode/Tactics/Cases.lean [hunk 5]
```diff
@@ -154,15 +156,15 @@ private def iCasesIntuitionistic {prop : Q(Type u)} (_bi : Q(BI $prop))
     (k : (B : Q($prop)) → ProofModeM Q($P ∗ □ $B ⊢ $goal)) :
     ProofModeM (Q($P ∗ □?$p $A ⊢ $goal)) := do
   let B ← mkFreshExprMVarQ q($prop)
-  let .some _ ← ProofModeM.trySynthInstanceQ q(IntoPersistently $p $A $B)
+  let .some instPers ← ProofModeM.trySynthInstanceQ q(IntoPersistently $p $A $B)
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Cases.lean]: Why is this change necessary?

File: Iris/Iris/ProofMode/Tactics/Inv.lean [hunk 6]
```diff
@@ -0,0 +1,159 @@
...
+
+/--
+  An annotation of `wandM` with `@[reducible]` is useful when `whnf` is called,
+  but `whnf` is not strong enough to simplify occurrences of `wandM` in the
+  proof goal. This funnction is similar to `pm_reduce` in the Rocq version,
+  which forces the reduction of `wandM` (`-∗?`), occurrences of `Option.getD`
+  and pattern matching (`match … with …`).
+-/
+private def reduceWandM (e : Expr) : ProofModeM Expr := do
+  #[``BIBase.wandM, ``Option.getD].foldlM (·.addDeclToUnfold ·) {} >>=
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Inv.lean]: Instead of using `>>=`, it might be clearer to use `let _ ← _`.

File: Iris/Iris/ProofMode/Tactics/Inv.lean [hunk 7]
```diff
@@ -0,0 +1,159 @@
...
+  let some inst ← ProofModeM.trySynthInstanceQ q(ElimInv $ϕ $X $Pinv $Pin $Pout $close $mPclose $goal $Q')
+  | throwError "iinv: invalid invariant {Pinv} (ElimInv type class synthesis failed)"
+
+  let ⟨e'', hyps'', p'', out'', pfPin⟩ ←
+    iSpecializeCore hyps' q(false) q(iprop($Pin -∗ $Pin)) [specPat.getD <| .autoframe .spatial]
+  have : $out'' =Q $Pin := ⟨⟩
+  have : $p'' =Q false := ⟨⟩
+
+  -- Solve side conditions automatically if possible, otherwise add them into the proof state
+  let hϕ ← iSolveSidecondition q($ϕ) false
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Inv.lean]: please use `(failOnUnsolved := false)`. Then you can remove the comment.

File: Iris/Iris/ProofMode/Tactics/Pure.lean [hunk 8]
```diff
@@ -36,7 +36,7 @@ def iPureCore {prop : Q(Type u)} (_bi : Q(BI $prop))
     (P P' : Q($prop)) (p : Q(Bool)) (A Q : Q($prop)) (name : TSyntax ``binderIdent) (pf : Q($P ⊣⊢ $P' ∗ □?$p $A))
     (k : (φ : Q(Prop)) → Q($φ) → ProofModeM (Q($P' ⊢ $Q))) : ProofModeM (Q($P ⊢ $Q)) := do
   let φ : Q(Prop) ← mkFreshExprMVarQ q(Prop)
-  let .some _ ← ProofModeM.trySynthInstanceQ q(IntoPure $A $φ)
+  let .some instIntoPure ← ProofModeM.trySynthInstanceQ q(IntoPure $A $φ)
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Pure.lean]: Why is this change necessary (same as above)?

File: Iris/Iris/ProofMode/Tactics/Basic.lean [hunk 9]
```diff
@@ -29,10 +29,12 @@ def iSolveSidecondition (target : Q(Prop)) (failOnUnsolved := true) : ProofModeM
   | .app (.const ``PMError _) (.lit (.strVal msg)) =>
       throwError "{msg}"
   | _ =>
-      let gs ← evalTacticAt (← `(tactic | trivial)) mvar.mvarId!
+      let gs ← (observing? <|
+        evalTacticAt (← `(tactic | first | trivial | simp [*])) mvar.mvarId!) <&>
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Basic.lean]: Why is the `observing?` necessary? It probably also makes sense to add a `withSuppressedMessages` around the evalTacticAt and add a `done` after `simp` to ensure that the goal is either fully solved or not changed.

File: Iris/Iris/ProofMode/Classes.lean [hunk 10]
```diff
@@ -205,8 +206,9 @@ export FromModal (from_modal)
 
 /-- `ElimModal` turns `□?p P` into `□?p' P'` and `Q` into `Q'` under condition `φ`. -/
 @[ipm_class, rocq_alias ElimModal]
-class ElimModal {PROP} [BI PROP] (φ : outParam $ Prop) (p : Bool) (p' : outParam $ Bool) (P : PROP)
-    (P' : outParam $ PROP) (Q : PROP) (Q' : outParam $ PROP) where
+class ElimModal {PROP} [BI PROP] (φ : outParam $ Prop) (p : Bool)
+    (p' : outParam $ uncheckedInParam Bool) (P : PROP)
+    (P' : outParam $ uncheckedInParam PROP) (Q : PROP) (Q' : outParam $ PROP) where
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Classes.lean]: Why do these need to be `uncheckedInParam`?

File: Iris/Iris/ProofMode/Tactics/Cases.lean (hunk 5 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Cases.lean]: Changes reverted in commit [fb3b855](https://github.com/leanprover-community/iris-lean/pull/470/commits/fb3b855b0b3ecbc70bae001ed2e5b9906c632392).

Without passing the instances as arguments, it is unable to infer `A` in the theorem `intuitionistic_elim_spatial`, so we have to explicitly pass `A` instead.

Example at [the end of `iCasesIntuitionistic`](https://github.com/leanprover-community/iris-lean/pull/470/changes/fb3b855b0b3ecbc70bae001ed2e5b9906c632392#diff-74d3c9e258f6feb4e7770c078fac32706205905959bef20d00900f992b6d870cR168):

```lean4
return q(intuitionistic_elim_spatial (A := $A) $(← k B))
```

File: Iris/Iris/ProofMode/Tactics/Inv.lean (hunk 7 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Inv.lean]: Resolved in commit [3c4721e](https://github.com/leanprover-community/iris-lean/pull/470/commits/3c4721ebfd36f5c8214e36f883b13d0f0335b203).

File: Iris/Iris/ProofMode/Tactics/Pure.lean (hunk 8 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Pure.lean]: Resolved in commit [fb3b855](https://github.com/leanprover-community/iris-lean/pull/470/commits/fb3b855b0b3ecbc70bae001ed2e5b9906c632392), same as [above](https://github.com/leanprover-community/iris-lean/pull/470#discussion_r3639486553).

File: Iris/Iris/ProofMode/Tactics/Basic.lean (hunk 9 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Basic.lean]: Resolved in commit [719aaa2](https://github.com/leanprover-community/iris-lean/pull/470/commits/719aaa2e4d13b5f63fd898c29ecbc9786755925c) by replacing `simp [*]` with `simp [*] <;> done`.

File: Iris/Iris/ProofMode/Classes.lean (hunk 10 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Classes.lean]: Replaced `outParam $ uncheckedInParam ...` with `semiOutParamIPM ...` in commit [a67f1dc](https://github.com/leanprover-community/iris-lean/pull/470/commits/a67f1dcd56ba4de2658221c66505c7ebf5a3417c).

File: Iris/Iris/ProofMode/Tactics/Inv.lean (hunk 6 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Inv.lean]: Resolved in commit [45bdcb5](https://github.com/leanprover-community/iris-lean/pull/470/commits/45bdcb50d326ca26cc50fec7bbebc63b811c1a63).

**Comment by MackieLoeffel** [comment]
Thanks for all your work on this! Merged.
